US04697033
A mixture of hydroquinone (11.0 g, 100.0 mmol), ethyl 2-chloroethylcarbamate (7.6 g, 50.0 mmol) and potassium carbonate (13.8 g, 100.0 mmol) in 100 ml of dimethylformamide (DMF) is heated at 80° for 20 hours. After cooling to RT, the reaction mixture is poured into ice water and hexane, and the hexane layer is discarded to remove the bis ether by-product. The aqueous layer is then extracted with ether (3X) and the combined ether layers are washed with water, followed with brine, and dried over calcium sulfate. The solvent is removed and the residue is diluted with chloroform to precipitate out the excess hydroquinone. Following filtration, the filtrate is collected and rotoevaporated to give ethyl N-[2-(4-hydroxyphenoxy)ethyl]carbamate, a solid.

reactant | hydroquinone | 100.0 mmol, 11.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | ethyl 2-chloroethylcarbamate | 50.0 mmol, 7.6 g | ClCCNC(OCC)=O | C5H10ClNO2
reactant | potassium carbonate | 100.0 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl N-[2-(4-hydroxyphenoxy)ethyl]carbamate | OC1=CC=C(OCCNC(OCC)=O)C=C1 | C11H15NO4
